US07678820B2
To a solution of 3-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2,3-dihydro-1H-indol-1-yl)propanamide (100 mg) in chloroform (1 ml) was added manganese dioxide (67.6 mg), followed by reflux for 15 hours. The reaction solution was left to be cooled to room temperature, and filtered through Celite to remove manganese dioxide. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:CH3OH=100:0 to 90:10) to obtain 3-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl) propanamide (46.3 mg).

reactant | 3-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2,3-dihydro-1H-indol-1-yl)propanamide | 100 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=C2CCN(C2=CC=C1)CCC(=O)N)(F)F | C23H20F6N4O3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 67.6 mg | [O-2].[O-2].[Mn+4]
product | 3-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl) propanamide | 46.3 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CCC(=O)N)(F)F | C23H18F6N4O3
